US07064142B2
1,1-bis(4-fluorophenyl)-3-methoxymethoxy-1,2-propanediamine(218 mg) was dissolved in methanol(3 mL), and to the solution was added 3-cyanobenzeneimidic acid methyl ester (266 mg), and the mixture was stirred at room temperature for 17 hrs. To the reaction mixture was added an additional amount of 3-cyanobenzeneimidic acid methyl ester (266 mg), and the reaction mixture was stirred at room temperature for 6 hrs. To the reaction mixture was added ethyl acetate (50 ml), and the organic layer was washed with saturated sodium hydrogen carbonate aqueous solution and saturated sodium chloride aqueous solution in this order, and dried over anhydrous sodium sulfate. Sodium sulfate was removed by filtration, and then the organic solvent was evaporated in vacuo. The obtained residue was purified by silica gel column chromatography (C-300; hexane:ethyl acetate=2:1) to give 2-(3-cyanophenyl)-4,4-bis(4-fluorophenyl)-5-[(methoxymethoxy)methyl]-2-imidazoline (146 mg) as colorless oil. The protected compound (115 mg) was dissolved in the mixture solution of 2N hydrochloric acid (1.5 mL) and tetrahydrofuran (1.5 ml), and the solution was stirred at 50° C. for 3 days. After cooling the mixture to the room temperature by standing it at room temperature and neutralizing with saturated sodium hydrogen carbonate aqueous solution, the mixture was extracted with ethyl acetate. The organic layer was washed with saturated sodium chloride aqueous solution, and dried over anhydrous sodium sulfate. Sodium sulfate was removed by filtration, and the organic solvent was evaporated in vacuo to give the title compound (105 mg).

reactant | 1,1-bis(4-fluorophenyl)-3-methoxymethoxy-1,2-propanediamine | 218 mg | FC1=CC=C(C=C1)C(C(COCOC)N)(N)C1=CC=C(C=C1)F | C17H20F2N2O2
reactant | 3-cyanobenzeneimidic acid methyl ester | 266 mg | COC(=N)C1=CC(=CC=C1)C#N | C9H8N2O
reactant | 3-cyanobenzeneimidic acid methyl ester | 266 mg | COC(=N)C1=CC(=CC=C1)C#N | C9H8N2O
reactant | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
solvent | methanol | 3 mL | CO | CH4O
product | 2-(3-cyanophenyl)-4,4-bis(4-fluorophenyl)-5-[(methoxymethoxy)methyl]-2-imidazoline | 146 mg | C(#N)C=1C=C(C=CC1)C=1NC(C(N1)(C1=CC=C(C=C1)F)C1=CC=C(C=C1)F)COCOC | C25H21F2N3O2
